US05190969
Preparation of (2S-cis)-3-Heptyloxiranecarboxylic acid
To a solution of 500 mg (2.50 mmole) of (2R-cis)-3-heptyloxiranemethanol in 50 ml of DMF was added 3.30 g (8.75 mmole) of pyridinium dichromate. The reaction was allowed to stir overnight under argon. The mixture was then diluted with 150 ml H2O and 20 ml 0.1M HCl and washed three times with 50 ml of Et2O. The combined Et2O layers were dried over MgSO4, filtered and evaporated to afford a white powder. This residue was crystallized from petroleum ether to afford 39 mg of white power, mp 62°-3° C. 1H NMR (CDCl3) δ3.59 (d, 1, J=5 Hz), 3.24 (m, 1), 1.6-1.2 (m, 12), 0.88 (t, 3, J=7 Hz). Mass Spectra: M+(19.1)186.1, M-45(42.3)141.1, M(100)95.1.

reactant | (2R-cis)-3-heptyloxiranemethanol | 2.50 mmole, 500 mg | C(CCCCCC)[C@H]1[C@H](O1)CO | C10H20O2
reactant | pyridinium dichromate | 8.75 mmole, 3.30 g | [Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | H2O | 150 ml | O | H2O
solvent | HCl | 0.1M, 20 ml | Cl | ClH
product | (2S-cis)-3-Heptyloxiranecarboxylic acid | C(CCCCCC)[C@H]1[C@H](O1)C(=O)O | C10H18O3
